US06972295B2
2-Methyl-2-(5-trifluoromethyl-2-pyridyloxy)propionic Acid
The title compound was prepared following the procedure described in Reference Example 91, Step A with 1.5 extra equivalent of sodium hydride substituting lithium lactate with hydroxyisobutyric acid and 2-chloro-4-trifluoromethylpyridine 2-chloro-5-trifluoromethylpyridine. 1H NMR (500 MHz, CD3OD): δ 8.38 (br, 1H), 7.94 (dd, 1H), 6.93 (d, 1H), 1.69 (s, 6H).

reactant | sodium hydride | [H-].[Na+]
reactant | hydroxyisobutyric acid | OC(C(=O)O)(C)C | C4H8O3
reactant | 2-chloro-4-trifluoromethylpyridine 2-chloro-5-trifluoromethylpyridine | ClC1=NC=C(C=C1)C(F)(F)F.ClC1=NC=CC(=C1)C(F)(F)F | 2C6H3ClF3N
product | 2-Methyl-2-(5-trifluoromethyl-2-pyridyloxy)propionic Acid | CC(C(=O)O)(C)OC1=NC=C(C=C1)C(F)(F)F | C10H10F3NO3
